US09278968B2
To a solution of 137 mg of N-[1-{[tert-butyl (diphenyl)silyl]oxy}-2-(2-ethyl-2H-tetrazol-5-yl)propan-2-yl]-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 3 ml of THF was added 0.3 ml of a 1 M tetrabutylammonium fluoride/THF solution, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography. To the obtained crude product was added ethyl acetate, and the insoluble materials were collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to obtain 75 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[2-(2-ethyl-2H-tetrazol-5-yl)-1-hydroxypropan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | N-[1-{[tert-butyl (diphenyl)silyl]oxy}-2-(2-ethyl-2H-tetrazol-5-yl)propan-2-yl]-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 137 mg | C(C)(C)(C)[Si](OCC(C)(C=1N=NN(N1)CC)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H41F2N7O3Si
reactant | tetrabutylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 8-[(2,6-difluorobenzyl)oxy]-N-[2-(2-ethyl-2H-tetrazol-5-yl)-1-hydroxypropan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 75 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(C)C=3N=NN(N3)CC)C(=CC=C1)F | C22H23F2N7O3
